US04965284
N,N-Diethylbenzamide
A stirred solution of 2.5 g of diethylamine and 3.5 g of triethylamine in 30 ml of methylene chloride was cooled in an ice bath while 4.9 g of benzoyl chloride was added dropwise. The cooling bath was removed and the mixture stirred at ambient temperature for 18 hours. The insolubles were removed by filtration followed by methylene chloride washing. The combined filtrates were washed with water and brine, dried and evaporated to a yellow oil which was distilled in a Kugelrohr still to give 5.91 g of the desired product as a colorless oil, 70°/300 mm.

reactant | diethylamine | 2.5 g | C(C)NCC | C4H11N
reactant | triethylamine | 3.5 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 4.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N,N-Diethylbenzamide | 5.91 g | C(C)N(C(C1=CC=CC=C1)=O)CC | C11H15NO
